* source 3EJ4 LAB 2
R_R1         N00270 0  76.8k TC=0,0 
R_R2         N00235 N00270  57.6k TC=0,0 
R_R3         N00235 N00231  8.06k TC=0,0 
V_VCC         N00178 0 5V
V_VEE         N00235 0 -5V
Q_Q1         N00178 N00270 N00231 MY2N3904 
