* source 3EJ4 LAB 4
R_R2         N00150 VOUT  240k TC=0,0 
R_R1         0 N00150  100k TC=0,0 
R_R3         N00366 VOUT  4.02k TC=0,0 
C_C2         N00315 N00366  1n  TC=0,0 
R_R4         0 N00315  4.02k TC=0,0 
C_C1         0 N00366  1n  TC=0,0 
V_VDD         N00783 0 5V
V_VSS         N00934 0 -5V
X_U1         N00315 N00150 N00783 N00934 VOUT TLV2371
