* source 3EJ4 LAB 5
R_R2         VN VOUT  100k TC=0,0 
R_R3         0 VN  200k TC=0,0 
X_U1         VP VN N01734 N01798 VOUT TLV2371
R_R1         N01658 VP  100k TC=0,0 
V_VSS         N01798 0 -5V
V_VDD         N01734 0 5V
C_C1         0 VP  1n  TC=0,0 
V_Vin         N01658 0 DC 0Vdc AC 100mVac 0
