* source 3EJ4 LAB 5
C_C1         VOUT N03329  1n  TC=0,0 
V_VDD         N02886 0 5V
X_U1         VP VN N02886 N03032 VOUT TLV2371
R_R3         0 VN  100k TC=0,0 
R_R4         VN VOUT  100k TC=0,0 
V_VSS         N03032 0 -5V
V_Vin         N02950 0 DC 0Vdc AC 1Vac 0
R_R2         N03329 VP  100k TC=0,0 
C_C2         0 VP  2.2n  TC=0,0 
R_R1         N02950 N03329  100k TC=0,0 
