* source 3EJ4 LAB 2
V_VEE         N00598 0 -5V
R_R2         N00598 VB  57.6k TC=0,0 
Q_Q1         VO VB VE MY2N3904 
R_R3         N00598 VE  8.06k TC=0,0 
R_R1         VB 0  76.8k TC=0,0 
V_Vsig         N01594 0 DC 4.4018V AC 1mV 0
Q_Q2         VO N01594 N02137 MY2N3906 
V_VCC         N02137 0 5V
