* source 3EJ4 LAB 4
R_RL         0 VO  240k TC=0,0 
R_RF2         VO N09231  100k TC=0,0 
Q_Q6         N09169 N09561 N09689 MY2N3904 
Q_Q9         N08977 N09169 VO MY2N3904 
Q_Q8         N09169 N09117 N08977 MY2N3906 
R_R6         N09829 N09689  8.06k TC=0,0 
R_R1         N09557 0  76.8k TC=0,0 
R_RF1         0 N09231  100k TC=0,0 
Q_Q1         N09101 N09231 N09273 MY2N3904 
R_R8         N09829 N09565  57.6k TC=0,0 
R_R4         N09561 0  76.8k TC=0,0 
Q_Q3         N09101 N09101 N08977 MY2N3906 
Q_Q5         N09273 N09557 N09683 MY2N3904 
R_R9         N09829 N09695  8.06k TC=0,0 
R_R7         N09565 0  76.8k TC=0,0 
Q_Q7         VO N09565 N09695 MY2N3904 
R_R2         N09829 N09557  57.6k TC=0,0 
V_VEE         N09829 0 -5V
V_VCC         N08977 0 5V
R_R3         N09829 N09683  8.06k TC=0,0 
Q_Q2         N09117 N09237 N09273 MY2N3904 
V_V1         N09237 0 DC 0 AC 1m
+SIN 0 1m 1k 0 0 0
Q_Q4         N09117 N09101 N08977 MY2N3906 
R_R5         N09829 N09561  57.6k TC=0,0 
