* source 3EJ4 LAB 1
R_R2         N00785 N00652  100k TC=0,0 
R_R3         N00785 N00781  3.669k TC=0,0 
V_VCC         N00397 0 -5Vdc
V_VEE         N00785 0 -5Vdc
R_R1         N00652 0  13.12k TC=0,0 
Q_Q1         N00397 N00652 N00781 MY2N3904 
