* source 3EJ4 LAB 2
R_R1         N02592 0  76.8k TC=0,0 
R_R2         N02682 N02592  57.6k TC=0,0 
R_R3         N02682 N02634  8.06k TC=0,0 
V_VEE         N02682 0 -5V
Q_Q3         VE N02592 N02634 MY2N3904 
V_Vcm         VB12 0 DC 0V AC 1mV 0
Q_Q1         N02426 VB12 VE MY2N3904 
V_VCC         N03306 0 5V
Q_Q2         VO VB12 VE MY2N3904 
R_R4         N02426 N03306  8.25k TC=0,0 
R_R5         VO N03306  8.25k TC=0,0 
