* source 3EJ4 LAB 2
R_R4         N03807 N03711  8.25k TC=0,0 
V_VEE         N04087 0 -5V
V_VCC         N03711 0 5V
V_V1         N03873 0 DC 0V AC 1mV 0
R_R5         VO N03711  8.25k TC=0,0 
Q_Q2         VO N03885 VE MY2N3904 
R_R2         N04087 N04001  57.6k TC=0,0 
Q_Q3         VE N04001 N04041 MY2N3904 
Q_Q1         N03807 N03873 VE MY2N3904 
R_R1         N04001 0  76.8k TC=0,0 
R_R3         N04087 N04041  8.06k TC=0,0 
V_V2         N03885 0 DC 0V AC 1mV 180
