* source 3EJ3 LAB 3
R_R1         VB 0  76.8k TC=0,0 
R_R2         N00283 VB  57.6k TC=0,0 
R_R3         N00283 VE  8.06k TC=0,0 
V_VCC         N00252 0 5V
V_VEE         N00283 0 -5V
V_Vsig         N00449 0 DC 0.5Vdc AC 1mVac 0
Q_Q1         VO VB VE MY2N3904 
Q_Q2         N00252 N00449 VO MY2N3904 
