* source 3EJ3 LAB 3
Q_Q4         VO N03859 N03783 MY2N3906 
R_R3         N04567 N04519  8.06k TC=0,0 
Q_Q2         VO N05486 VE MY2N3904 
R_R1         N04477 0  76.8k TC=0,0 
Q_Q5         VE N04477 N04519 MY2N3904 
V_VEE         N04567 0 -5V
V_V2         N05486 0 DC 0Vdc AC 1mVac 180
Q_Q1         N03859 N05419 VE MY2N3904 
V_VCC         N03783 0 5V
V_V1         N05419 0 DC 0Vdc AC 1mVac 0
R_R2         N04567 N04477  57.6k TC=0,0 
Q_Q3         N03859 N03859 N03783 MY2N3906 
