* source 3EJ4 LAB 1
V_VCC         N00166 0 5Vdc
V_VE         N00204 0 -5Vdc
R_R1         0 N00213  100k TC=0,0 
R_R2         N00292 N00166  100 TC=0,0 
Q_Q1         N00292 N00213 N00204 MY2N3904 
