* source 3EJ4 LAB 1
R_R1         0 N00507  100k TC=0,0 
Q_Q1         N00413 N00507 N01258 MY2N3906 
R_R2         N01138 N00413  100 TC=0,0 
V_VCC         N01138 0 -5Vdc
V_VE         N01258 0 5Vdc
