* source 3EJ4 LAB 4
Q_Q2         VO1 N06136 N06172 MY2N3904 
R_R1         N06292 0  76.8k TC=0,0 
R_R3         N06378 N06332  8.06k TC=0,0 
Q_Q3         N06040 N06040 N05932 MY2N3906 
V_VEE         N06378 0 -5V
Q_Q1         N06040 N06126 N06172 MY2N3904 
R_R2         N06378 N06292  57.6k TC=0,0 
V_VCC         N05932 0 5V
Q_Q4         VO1 N06040 N05932 MY2N3906 
Q_Q5         N06172 N06292 N06332 MY2N3904 
V_V2         N06136 0 DC 0Vdc AC 0mVac 180
V_V1         N06126 0 DC 0Vdc AC 0mVac 0
R_R5         N06378 N06795  57.6k TC=0,0 
R_R6         N06378 N06833  8.06k TC=0,0 
R_R4         N06795 0  76.8k TC=0,0 
Q_Q6         VO2 N06795 N06833 MY2N3904 
R_R9         N06378 N07138  8.06k TC=0,0 
R_R8         N06378 N07100  57.6k TC=0,0 
Q_Q7         VO N07100 N07138 MY2N3904 
R_R7         N07100 0  76.8k TC=0,0 
Q_Q8         VO2 VO1 N05932 MY2N3906 
Q_Q9         N05932 VO2 VO MY2N3904 
I_Ix         VO 0 DC 0Adc AC 1mAac 180
